Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Non healing ___ anal wound
 
Major Surgical or Invasive Procedure:
Multiple Wound Debriedments in the OR with Colorectal Surgery 
and Plastic Surgery

___ Laparoscopic abdominoperineal resection with
revision of colostomy and repair of parastomal hernia,
coccygectomy.

___ 
PROCEDURE:  Sacral wound debridement and closure with bilateral
V-Y fasciocutaneous flaps based on the gluteal arteries.

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with PMHx significant for 
HIV with long standing large posterior perianal defect, status 
post chemoradiation therapy for a large squamous cell cancer of 
the anus. He initially was managed as an outpatient but came 
back after increasing pain and poor wound control despite very 
judicious with wound care.  He continues to have pain. The left 
lateral decubitus position with gentle gluteal retraction there 
remains a very large perineal defect with obvious gross necrotic 
debris and mucus in the wound which is clearly coming from the 
distal rectum emptying into the wound.  Wound appears no better 
than it did previously. He was therefore scheduled to return to 
the operating room early next week for debridement
and placement of a special irrigating vacuum device that will 
require him to be an inpatient for a few days and then the 
device
will be changed to a standard VAC dressing if the wound is 
sufficiently improved.
 
Past Medical History:
- HIV (diagnosed about ___ years ago, reportedly undetectable 
viral load: he is on a clinical trial with Gilead which involves 
a medication combination Truvada + Trial Drug, one tablet QHS -- 
patient has it with him)
- H/o rectal condyloma ___ HPV
- H/o syphilis (s/p IM penicillin treatment about ___ years ago)
- H/o gonorrhea (~ ___ years ago)
- Hypertension
 
Social History:
___
Family History:
- Mother: breast cancer in ___, s/p successful treatment.
- No family history of colon or rectal cancer or other 
malignancies.
 
Physical Exam:
Physical Exam at Discharge: 
General: Doing well, tolerating a regular diet, pain still issue 
but patient stating acceptable level of pain, mood is 
occationally withdrawn
VSS
Neuro: A&OX3
Cardio/Pulm: no chest pain, no shortness of breath
Abd: lap sites well healed, JP drains in place with sero/sang 
output, colostomy with paste like browk stool
___ rectal area: flaps intact, serousang drainage on left side 
of the incisions, please see plastic surgery note
___: no lower extremity edema
 
Pertinent Results:
___ 10:16AM BLOOD WBC-6.9 RBC-2.60* Hgb-7.6* Hct-23.4* 
MCV-90 MCH-29.2 MCHC-32.5 RDW-14.9 RDWSD-48.8* Plt ___
___ 05:12AM BLOOD WBC-6.7 RBC-2.59* Hgb-7.6* Hct-23.5* 
MCV-91 MCH-29.3 MCHC-32.3 RDW-14.7 RDWSD-48.5* Plt ___
___ 06:34AM BLOOD WBC-5.4# RBC-2.69* Hgb-7.8* Hct-24.1* 
MCV-90 MCH-29.0 MCHC-32.4 RDW-14.6 RDWSD-47.9* Plt ___
___ 04:46AM BLOOD WBC-15.4* RBC-3.33* Hgb-10.0* Hct-29.4* 
MCV-88 MCH-30.0 MCHC-34.0 RDW-14.4 RDWSD-45.8 Plt ___
___ 06:20AM BLOOD WBC-14.1*# RBC-3.28* Hgb-9.6* Hct-29.3* 
MCV-89 MCH-29.3 MCHC-32.8 RDW-14.2 RDWSD-46.5* Plt ___
___ 06:45AM BLOOD WBC-9.3 RBC-2.92* Hgb-8.6* Hct-26.5* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-14.2 RDWSD-47.6* Plt ___
___ 06:21AM BLOOD WBC-10.1* RBC-2.78* Hgb-8.3* Hct-24.9* 
MCV-90 MCH-29.9 MCHC-33.3 RDW-14.2 RDWSD-46.8* Plt ___
___ 05:07AM BLOOD WBC-9.7 RBC-2.82* Hgb-8.4* Hct-25.4* 
MCV-90 MCH-29.8 MCHC-33.1 RDW-14.2 RDWSD-46.8* Plt ___
___ 04:19AM BLOOD WBC-10.0 RBC-2.77* Hgb-8.4* Hct-24.9* 
MCV-90 MCH-30.3 MCHC-33.7 RDW-14.1 RDWSD-46.6* Plt ___
___ 04:46AM BLOOD ___ PTT-28.7 ___
___ 05:07AM BLOOD ___ PTT-28.2 ___
___ 05:12AM BLOOD Glucose-91 UreaN-12 Creat-0.5 Na-142 
K-3.8 Cl-103 HCO3-27 AnGap-12
___ 06:34AM BLOOD Glucose-95 UreaN-16 Creat-0.7 Na-140 
K-3.7 Cl-102 HCO3-25 AnGap-13
___ 04:46AM BLOOD Glucose-128* UreaN-11 Creat-0.5 Na-139 
K-4.0 Cl-100 HCO3-24 AnGap-15
___ 06:20AM BLOOD Glucose-131* UreaN-9 Creat-0.4* Na-138 
K-4.4 Cl-99 HCO3-23 AnGap-16
___ 06:45AM BLOOD Glucose-91 UreaN-8 Creat-0.4* Na-137 
K-4.5 Cl-100 HCO3-24 AnGap-13
___ 04:19AM BLOOD Glucose-105* UreaN-8 Creat-0.6 Na-133* 
K-4.9 Cl-94* HCO3-27 AnGap-12
___ 05:07AM BLOOD Glucose-102* UreaN-6 Creat-0.6 Na-133* 
K-4.4 Cl-92* HCO3-25 AnGap-16
___ 05:12AM BLOOD Calcium-7.7* Phos-3.2 Mg-2.1
___ 06:34AM BLOOD Calcium-7.7* Phos-4.2 Mg-1.9
___ 04:46AM BLOOD Calcium-8.7 Phos-3.9 Mg-1.8
___ 06:21AM BLOOD Calcium-8.1* Phos-4.0 Mg-2.0
___ 04:19AM BLOOD Calcium-8.8 Phos-4.3 Mg-1.9
___ 05:07AM BLOOD Calcium-8.5 Phos-4.1 Mg-2.___elow is a list of the operations he had during his visit.

Operative Dates:
___ plastics- OR debride perineum/vac placed
___, revision of colostomy, vac placement
___ parastomal hernia repair
___ EUA, perineal debridement, VAC change
___ EUA, perineal debridement, VAC change
___ exploration and perineal debridement, VAC 

List of Events:  Mr. ___ was admitted for scheduled wound 
exploration and peritoneal debridement. He initially did well 
and started on a regular deit post op. He returned to the OR for 
a subsequent  procedures. 

22 ___ pain control improved, adeq UOP, heme/onc- needs bx 
lung nodule
21 ___ OR wash out with plastics, refused SW ___ pain. Low 
Uout, Bolus 1000 x2, 
inc abd pain, low UOP -->1000cc bolus, KUB-NGT, poor pain 
control, replete mg
20 ___ Vomit x3; NPO/mIVFs, erythema noted by prs, wbc 
rise, uop low--> 1L bolus,?cellulitis,ancef,bedrest
19 ___ PCA was d/c'd. PO pain meds w/IV for breakthrought
18 ___ OR today, PCA increased 0.12 -> 0.24, perineum 
intact, vac to suction
___ prealb 7, discussed options with patient, OR tomorrow; 
NPO/mIVFs at midnight
17 ___ Dressing change WTD BID
16 ___ Dressing change WTD BID
15 ___ Dressing change WTD BID; CTA completed; encouraged 
PO; prealbumin ordered
14 ___ Dressing change WTD BID,low grade fever 100.5 and 
tachycardic to 100s
12 ___ dressing changed twice, kerlix w daikins ___. OOB 
walking. Photos shared w PS
11 ___ prealb=7, Dakins added to dressing
10 ___ WTD changed, NAE, plan is to hold course till next 
___ for OR, Alb=3
7 ___ febrile to 100.5; Bl cx, U cx, UA sent, VAC changed 
at bedside, wound necrotic
4 ___ OR
3 ___ NAE,
2 ___ OR wound debridement and VAC change
1 ___ NAE, regular diet, HLIVF, po pain med 

 
 
Medications on Admission:
Medications - Prescription
DOLUTEGRAVIR [TIVICAY] - Tivicay 50 mg tablet. 1 tablet(s) by 
mouth daily
EMTRICITABINE-TENOFOVIR ALAFEN [DESCOVY] - Descovy 200 mg-25 mg 
tablet. 1 tablet(s) by mouth daily
ENOXAPARIN - enoxaparin 40 mg/0.4 mL subcutaneous syringe. 40 mg 
sc once a day -  (Prescribed by Other Provider)
___ + TRUVADA (200/25 MG) - Dosage uncertain -  (Prescribed 
by Other Provider; Patient ran out of this med.  Waiting to meet 
with ID on ___
LISINOPRIL - lisinopril 10 mg tablet. tablet(s) by mouth  -  
(Prescribed by Other Provider; waiting for script to be 
delivered my mail)
LORAZEPAM - lorazepam 0.5 mg tablet. 1 tablet(s) by mouth at 
bedtime as needed for nausea can take before bed as needed for 
nausea
ONDANSETRON - ondansetron 4 mg disintegrating tablet. ___ 
tablet(s) by mouth every eight (8) hours as needed for nausea
OXYCODONE - oxycodone 5 mg capsule. 1 capsule(s) by mouth every 
6 hours as needed for pain
OXYCODONE - oxycodone 5 mg tablet. ___ tablet(s) by mouth every 
six (6) hours as needed for pain do not drink alcohol or drive a 
car while taking this medication -  (Prescribed by Other 
Provider)
PROCHLORPERAZINE MALEATE - prochlorperazine maleate 5 mg tablet. 
___ tablet(s) by mouth every eight (8) hours as needed for 
nausea
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. 2 tablet(s) by 
mouth twice a day as needed -  (Prescribed by Other Provider)
DOCUSATE SODIUM - Dosage uncertain -  (OTC)
IBUPROFEN [ADVIL] - Advil 200 mg tablet. 2 tablet(s) by mouth 
every six (6) hours as needed -  (Prescribed by Other Provider)
POLYETHYLENE GLYCOL 3350 [MIRALAX] - Dosage uncertain - 
(Prescribed by Other Provider

 
___:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
do not take more than 3000mg of Tylenol or drink alcohol while 
taking 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*55 Tablet Refills:*0 
2.  Cyclobenzaprine 10 mg PO TID:PRN muscle spasm 
do not drink alcohol while taking 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Enoxaparin Sodium 40 mg SC DAILY 
monitor for signs of bleeding 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*22 Syringe Refills:*0 
5.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*1 
6.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate Duration: 7 Days 

  Reason for PRN duplicate override: Alternating agents for 
similar severity
take with food 
RX *ibuprofen [Advil] 200 mg 2 tablet(s) by mouth every eight 
(8) hours Disp #*45 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drink alcohol or drive a car while taking this medication 

RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*45 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth once a day Disp #*30 Packet Refills:*0 
9.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*14 
Capsule Refills:*0 
10.  Dolutegravir 50 mg PO DAILY  
11.  Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY  
12.  Multivitamins W/minerals 1 TAB PO DAILY 
do not take at the same time as your HIV medications, it can 
reduce their effectiveness  
13.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone [OxyContin] 10 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*28 Tablet Refills:*0 
14.overlay air mattress
diagnosis: anal cancer with APR flap
prognosis: good
length of need: 4 weeks
___: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Anal squamous cell carcinoma status post abdominoperineal 
resection, sacral wound.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ have been admitted to the inpatient colorectal surgery 
service related to your nonhealing perineal wound after 
radiation therapy for anal cancer. ___ have had multiple 
debridement of this wound and eventually it was covered with a 
flap done by plastic surgery. ___ will see them in follow-up. 

___ will need to continue the flap care. Please continue to 
maintain ___ precautions and sleep in the air mattress at home. 
It is important to walk as much as possible. There is no limit 
to walking. ___ should not sit on your bottom directly until 
cleared by Dr. ___ in plastic surgery. Please inspect the 
flap with a mirror, if it looks: bluish, purple, drains 
white/green/grey drainage, is bleeding please call our office. 
___ will go home with the JP drains in place. Please record the 
output from the drains each day and bring the record sheet to 
clinic. Call if the drains are putting out more than 100cc in 24 
hours or is putting out bright red blood. Clean around the JP 
site with saline and apply a new dry sterile dressing and secure 
with paper tape. 

If ___ have any of the following symptoms please call the office 
for advice ___:  
 fever greater than 101.5  
 increasing abdominal distension  
 increasing abdominal pain  
 nausea/vomiting  
 inability to tolerate food or liquids  
 prolonged loose stool  
 extended constipation  
 inability to urinate   

___ have a new colostomy. It is important to monitor the output 
from this stoma. It is expected that the stool from this ostomy 
will be solid and formed like regular stool. ___ should have ___ 
bowel movements daily. If ___ notice that ___ have not had any 
stool from your stoma in ___ days, please call the office. ___ 
may take an over the counter stool softener such as Colace if 
___ find that ___ are becoming constipated from narcotic pain 
medications. Please watch the appearance of the stoma, it should 
be beefy red/pink, if ___ notice that the stoma is turning 
darker blue or purple, or dark red please call the office for 
advice. The stoma (intestine that protrudes outside of your 
abdomen) should be beefy red or pink, it may ooze small amounts 
of blood at times when touched and this should subside with 
time. The skin around the ostomy site should be kept clean and 
intact. Monitor the skin around the stoma for bulging or signs 
of infection listed above. Please care for the ostomy as ___ 
have been instructed by the wound/ostomy nurses. ___ will be 
able to make an appointment with the ostomy nurse in the clinic 
7 days after surgery. ___ will have a visiting nurse at home for 
the next few weeks helping to monitor your ostomy until ___ are 
comfortable caring for it on your own.  

___ will continue to take the medication Lovenox to prevent 
blood clots while ___ are not as mobile and ___ are at higher 
risk of clots related to cancer. Please follow all teaching 
materials provided by the nursing staff. If ___ have any of the 
following signs of bleeding please call our office: bruising, 
lightheadedness, low blood pressure, fast heart rate. Please 
call our office with any questions or concerns. 

After your many surgeries, ___ have had issues urinating and 
required placement of a foley catheter. ___ will have a voiding 
trial with the ___ clinic. Please keep the area clean where 
the foley is inserted into the penis. ___ can shower and let the 
water run away from this area to keep it clean. Please call if 
any of the following symptoms occur: increased lower abdominal 
pain, bloody urine, if the catheter is pulled on, if there is no 
urine coming from the foley, or any other concern. Call 
___ office. 

___ will continue to take the pain medications Oxycontin and 
oxycodone. Do not drink alcohol while taking this medication. Do 
not drive a car while taking this medication. ___ should take 
Tylenol for pain but no more than 3000mg of Tylenol in 24 hours. 
___ may also take ibuprofen for pain as needed, please take this 
with food. ___ will be prescribed a muscle relaxant as well for 
cramping abdominal pain. ___ should be very careful to not take 
these medications all at the same time which could result in 
over sedation. ___ should not take pain medications for sleep. 
If your pain is not controlled at home please call for advice. 
 
Followup Instructions:
___